US07816344B2
To a solution of 2-bromo-3-hydroxybenzaldehyde (5.18 g, 25.0 mmol) and 2-(3-bromopropoxy)tetrahydro-2H-pyran (5.1 mL, 30 mmol) in DMF (60 mL) was added sodium hydride (1.20 g, 30.0 mmol) at 0° C. under nitrogen atmosphere, and the mixture was stirred at room temperature for overnight. The reaction was quenched with water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water twice and brine, and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by silica gel column chromatography (9:1 to 3:1 hexane/ethyl acetate) to give 2-bromo-3-[3-(tetrahydropyran-2-yloxy)propoxy]benzaldehyde (8.75 g, quantitative).

reactant | 2-bromo-3-hydroxybenzaldehyde | 25.0 mmol, 5.18 g | BrC1=C(C=O)C=CC=C1O | C7H5BrO2
reactant | 2-(3-bromopropoxy)tetrahydro-2H-pyran | 30 mmol, 5.1 mL | BrCCCOC1OCCCC1 | C8H15BrO2
reactant | sodium hydride | 30.0 mmol, 1.20 g | [H-].[Na+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 2-bromo-3-[3-(tetrahydropyran-2-yloxy)propoxy]benzaldehyde | 8.75 g | BrC1=C(C=O)C=CC=C1OCCCOC1OCCCC1 | C15H19BrO4
